data/mechanism_extracts/OrgChemFront/10.1039_c8qo00645h.json
{"doi": "10.1039_c8qo00645h", "journal": "OrgChemFront", "is_review": false, "rxn_class_summary": "Bromide-mediated electrochemical trifluoromethylation/cyclization of N-arylacrylamides with CF3SO2Na (Langlois' reagent) to give CF3-substituted oxindoles.", "mechanism_family": ["mediator_anodic", "paired_electrolysis", "radical_anodic", "radical_cathodic"], "electrochemical_role": "Anode oxidizes Br- to Br2 (mediator, easier to oxidize than CF3SO2Na); cathode reduces the in situ formed CF3SO2Br (4) / CF3SO2OBr (5) to regenerate Br- and release a CF3SO2 radical that fragments to CF3 radical.", "key_intermediates": [{"name": "molecular bromine (Br2) from anodic oxidation of Br-", "smiles": "BrBr", "role": "reactive"}, {"name": "CF3SO2Br (intermediate 4)", "smiles": "O=S(=O)(Br)C(F)(F)F", "role": "reactive"}, {"name": "sulfonyl hypobromite CF3SO2OBr (intermediate 5, in equilibrium with 4)", "smiles": "O=S(=O)(OBr)C(F)(F)F", "role": "reactive"}, {"name": "CF3SO2 oxygen-centered radical (6)", "smiles": null, "role": "transient"}, {"name": "CF3SO2 sulfur-centered radical (7)", "smiles": "[O]S(=O)C(F)(F)F", "role": "transient"}, {"name": "CF3 radical", "smiles": "[C](F)(F)F", "role": "reactive"}, {"name": "alkyl radical from CF3 addition to acrylamide (8)", "smiles": null, "role": "transient"}, {"name": "cyclohexadienyl radical / dihydrooxindole intermediate (9)", "smiles": null, "role": "transient"}], "electron_flow": "Br- is oxidized at the anode to Br2, which reacts with CF3SO2Na to give CF3SO2Br (4)/CF3SO2OBr (5); cathodic single-electron reduction of 4/5 regenerates Br- and produces a CF3SO2 radical that loses SO2 to give CF3 radical. CF3 adds to the acrylamide, the resulting C-radical undergoes intramolecular aryl cyclization, and the cyclohexadienyl intermediate is rearomatized by anodic oxidation/deprotonation to the oxindole.", "rate_determining_step": null, "probe_reagents": [{"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Only trace of 3a under standard conditions with 3.0 equiv BHT, supporting a radical pathway."}, {"name": "Br2 (stoichiometric)", "smiles": "BrBr", "purpose": "intermediate_trap", "observation": "1a + CF3SO2Na with 1.2 equiv Br2 in CH3CN at 75 °C gave only trace product (no electrolysis), showing Br2 alone is insufficient."}, {"name": "CF3SO2Br (4, isolated/used stoichiometrically)", "smiles": "O=S(=O)(Br)C(F)(F)F", "purpose": "stoichiometric_intermediate", "observation": "Thermal reaction of 1a with 4 in CH3CN/75 °C gave 3a in 44%; under standard electrolysis with 4, 72% was obtained, confirming 4 as a key intermediate."}, {"name": "divided-cell test (anodic compartment)", "smiles": null, "purpose": "other", "observation": "Only 10% of 3a in the anodic compartment vs 14 (undivided) showing the cathode is required for CF3 radical formation."}, {"name": "divided-cell test (cathodic compartment with 4)", "smiles": null, "purpose": "other", "observation": "1a + 4 in the cathodic compartment gave 3a in 38%, confirming cathodic reduction of 4 generates CF3 radical."}, {"name": "cyclic voltammetry of n-Bu4NBr, CF3SO2Na, CF3SO2Br", "smiles": null, "purpose": "redox_probe", "observation": "Br- oxidations at 0.85 and 1.11 V vs Ag/AgNO3 (lower than CF3SO2Na at 1.39 V); catalytic current with CF3SO2Na and a new reduction peak at ~0.48 V matching CF3SO2Br reduction."}], "evidence_types_used": ["intermediate_trap_BHT", "stoichiometric_intermediate", "cyclic_voltammetry", "isolation_of_intermediate", "other"], "evidence_strength": "strong", "notes": "Authors emphasize that bromide mediation keeps the steady-state CF3 radical concentration low, suppressing decomposition. Both the O-centered (6, from 5) and S-centered (7, from 4) CF3SO2 radicals are proposed to converge to CF3 radical via SO2 loss; the two are presented as parallel branches rather than competing mechanisms. N-H acrylamide (3f), N-acetyl (3g), and p-NO2 (3k) substrates failed, suggesting electronic/steric limits on the radical cyclization/oxidation step."}
